US06002008
N-[4-[(3-Bromophenyl)amino]-3-cyano-6-quinolinyl]-4-methoxy-2-butynamide
Isobutyl chloroformate(0.410 g, 3.0 mmol) and N-methylmorpholine(0.910 g, 9.0 mmol) were added to an ice cold solution of 0.680 g (6.0 mmol) of 4-methoxy-2-butynoic acid in 20 mL of tetrahydrofuran under N2. After stirring for 30 min, a solution of 0.500 g (01.47 mmol) of 6-amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile in 10 mL of pyridine was added and the mixture was stirred at 0° C. for 2 h. The reaction was quenched with ice water, and then poured into saturated sodium bicarbonate and brine. The product was collected, washed with ethyl acetate, and dried in vacuo to give 0.200 g (35%) of yellow solid; ESMS m/z 435.1 (M+H+); mp 198-202° C.(dec).

reactant | Isobutyl chloroformate | 3.0 mmol, 0.410 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 9.0 mmol, 0.910 g | CN1CCOCC1 | C5H11NO
reactant | 4-methoxy-2-butynoic acid | 6.0 mmol, 0.680 g | COCC#CC(=O)O | C5H6O3
reactant | 6-amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile | 0.500 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-[(3-Bromophenyl)amino]-3-cyano-6-quinolinyl]-4-methoxy-2-butynamide | 0.200 g, 35% | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C#CCOC)=O)C#N | C21H15BrN4O2
